*****************************************************************
* NXP BUK7K6R8-40E
*
* Polarity N-Channel
* Ratings 40V/6.800000E-003OHMS/40A
*
* Date Created Thu Jul 05 00:13:07 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7K6R8-40E DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00301133258844286 TC=0.00386961323142177,2.49166197769128E-05
RBD 9 4 0.00143722059988656 TC=0.00386961323142177,2.49166197769128E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.263e-09
RG 1 2 1.40663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1473.47
+ -16	1472.54
+ -10	1469.6
+ -5	1457.59
+ -4	1433.31
+ -3	1427.52
+ -2	1219.22
+ -1	1024.45
+ -0.5	915.771
+ -0.2	846.251
+ -0.1	844.295
+ 0	762.60054
+ 0.1	627.12628
+ 0.2	626.43968
+ 0.5	499.68832
+ 1	399.47764
+ 2	332.1166
+ 3	300.77196
+ 4	281.04324
+ 5	267.11832
+ 6	256.51364
+ 8	241.605
+ 10	231.55676
+ 12	224.15676
+ 15	215.69552
+ 20	204.9012



.MODEL MINT NMOS(Vto=3.4727919875058 Kp=6.553749e+001 Nfs=610000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=2.34294355272388e-12
+ N=1 M=0.62 VJ=0.5 Fc=0.5 Cjo=1.21964752e-09 Tt=2.06e-08)

.ENDS
